US06858662B2
Synthesis of Poly(4,4′{-isopropylidenediphenol}-octylphosphite) (Stabilizer C)
In a round bottom flask, 34.6 g (0.1 mol) of diphenyl-(2-ethylhexyl)phosphite, 22.8 g (0.1 mol) of bisphenol-A, and a catalytic quantity of metallic sodium (or alcoholate of an alkali metal) was heated at 180° C. under an atmosphere of nitrogen for one hour. The temperature was reduced to 90-100° C. The phenol was then removed under vacuum (10 mm) over 2.5 hours. When the residual pressure dropped to 1 mm, the reaction mass was subjected to vacuum for two more hours. The yield was quantitative. The phosphorus-31 NMR showed a series of peaks from 126 to 131 ppm.

reactant | diphenyl-(2-ethylhexyl)phosphite | 0.1 mol, 34.6 g | C1(=CC=CC=C1)C(C(CCCC)CC)(P([O-])([O-])[O-])C1=CC=CC=C1
reactant | bisphenol-A | 0.1 mol, 22.8 g | OC1=CC=C(C=C1)C(C)(C)C1=CC=C(C=C1)O | C15H16O2
reactant | sodium | [Na] | Na
product | 4,4′{-isopropylidenediphenol} octylphosphite | C(C)(C)(C1=CC=C(C=C1)O)C1=CC=C(C=C1)O.C(CCCCCCC)OP([O-])[O-] | InChI=1S/C15H16O2.C8H17O3P/c1-15(2,11-3-7-13(16)8-4-11)12-5-9-14(17)10-6-12;1-2-3-4-5-6-7-8-11-12(9)10/h3-10,16-17H,1-2H3;2-8H2,1H3/q;-2
